US05288871
3-Methylphenyl benzoate
To a chilled (0°-5° C.) solution of 5.0 g (0.046 mol) of m-cresol in 20 mL of methylene chloride containing 5.16 g (0.051 mol) of triethylamine was added dropwise a solution containing 6.47 g (0.046 mol) of benzoyl chloride in 20 mL of methylene chloride. A precipitate formed upon addition. The reaction mixture was stirred several hours at room temperature and was then filtered. The filtrate was washed with water (25 mL) and then with brine (25 mL). The organic phase was removed and dried over magnesium sulfate, filtered and evaporated to dryness in a rotary evaporator. The crude product amounted to 9.66 g. An analytical sample (m.p. 51°-54° C.) was obtained by recrystallization from petroleum ether.

reactant | m-cresol | 0.046 mol, 5.0 g | C1=C(C=CC=C1O)C | C7H8O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.046 mol, 6.47 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.051 mol, 20 mL, 5.16 g | C(Cl)Cl | CH2Cl2
product | 3-Methylphenyl benzoate | C(C1=CC=CC=C1)(=O)OC1=CC(=CC=C1)C | C14H12O2
